### PR TITLE
feat: add some missing lemmas about linear algebra

### PR DESCRIPTION
**Pull request by jjaassoonn**
---

- [ ] depends on: #8905 [lifting injective modules to higher universe]

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Module/CharacterModule.lean [hunk 1]
```diff
@@ -0,0 +1,143 @@
...
+-/
+
+open CategoryTheory
+
+universe uR uM uN uD
+variable (R : Type uR) [CommRing R]
+variable (M : Type (max uR uM)) [AddCommGroup M] [Module R M]
+variable (N : Type (max uR uN)) [AddCommGroup N] [Module R N]
+variable (D : Type (max uR uD)) [AddCommGroup D] [Module R D]
+variable [injective_dual : Injective <| ModuleCat.of R D]
```
Comment (AntoineChambert-Loir) [inline Mathlib/Algebra/Module/CharacterModule.lean:42]: In principle, the Lean compiler should not use this hypothesis that D is injective unless it is needed, but can you make sure that this is the case?

File: Mathlib/Algebra/Module/CharacterModule.lean [hunk 2]
```diff
@@ -0,0 +1,143 @@
...
+  obj M := ModuleCat.of R <| CharacterModule.{uR, uM, uD} R M.unop D
+  map L := LinearMap.characterify.{uR, uM, uM, uD} D L.unop
+  map_id {_} := LinearMap.ext fun _ ↦ LinearMap.ext fun _ ↦ rfl
+  map_comp _ _ := LinearMap.ext fun _ ↦ LinearMap.ext fun _ ↦ rfl
+
+namespace CharacterModuleFunctor
+
+lemma map_surjective_of_injective_unop
+    {M N : (ModuleCat.{max uM uR, uR} R)ᵒᵖ}
+    (L : M ⟶ N) (hL : Function.Injective L.unop) :
```
Comment (AntoineChambert-Loir) [inline Mathlib/Algebra/Module/CharacterModule.lean:121]: L could probably be implicit

File: Mathlib/Algebra/Module/CharacterModule.lean [hunk 3]
```diff
@@ -0,0 +1,143 @@
...
+    CharacterModule.{uR, uN, uD} R N D →ₗ[R] CharacterModule.{uR, uM, uD} R M D where
+  toFun f := f ∘ₗ L
+  map_add' _ _ := LinearMap.ext fun m ↦ by aesop
+  map_smul' r c := LinearMap.ext fun m ↦ by
+    simp only [coe_comp, coe_restrictScalars, Function.comp_apply, RingHom.id_apply]
+    rw [CharacterModule.smul_apply, CharacterModule.smul_apply, LinearMap.comp_apply, c.map_smul,
+      L.map_smul, c.map_smul]
+
+lemma LinearMap.characterify_surjective_of_injective
+    (L : M →ₗ[R] N)
```
[the remark this answers is not in the document]
Comment (jjaassoonn) [reply Mathlib/Algebra/Module/CharacterModule.lean]: done

File: Mathlib/Algebra/Module/CharacterModule.lean (hunk 2 above)
Comment (jjaassoonn) [reply Mathlib/Algebra/Module/CharacterModule.lean]: done

File: Mathlib/Algebra/Module/Injective.lean [hunk 4]
```diff
@@ -475,3 +475,38 @@ protected theorem iff_injective : Module.Baer R Q ↔ Module.Injective R Q :=
   ⟨Module.Baer.injective, Module.Baer.of_injective⟩
 
 end Module.Baer
+
+section ULift
+
+lemma Module.ulift_injective_of_injective
+    (M : Type max u v) [AddCommGroup M] [Module R M] (inj : Module.Injective.{u, v} R M) :
```
[the remark this answers is not in the document]
Comment (jjaassoonn) [reply Mathlib/Algebra/Module/Injective.lean:482]: done in [0d454a1](https://github.com/leanprover-community/mathlib4/pull/8905/commits/0d454a1f2a3935d7066a06fbc7e4b8190557321c)

File: Mathlib/Algebra/Module/CharacterModule.lean (hunk 1 above)
Comment (alreadydone) [reply Mathlib/Algebra/Module/CharacterModule.lean:42]: I think @AntoineChambert-Loir means that you should only include the injectivity hypothesis when needed, rather than having it as a `variable` (so that readers of the source code (e.g. PR reviewers) can't easily figure out whether injectivity is used or not (even though it's easy to figure out in VSCode or the online docs)).

Comment (alreadydone) [reply Mathlib/Algebra/Module/CharacterModule.lean:42]: I suggest that you make this fully universe polymorphic and specialize only when necessary, and replace `CategoryTheory.Injective` by `Module.Injective` here.

File: Mathlib/Algebra/Module/CharacterModule.lean [hunk 5]
```diff
@@ -0,0 +1,141 @@
...
+
+variable {R M N}
+
+/--
+For a linear map `L : M → N`, `(· ∘ L)` defines map from `CharacterModule N` to `CharacterModule M`
+-/
+@[simps]
+def LinearMap.characterify
+    (L : M →ₗ[R] N)  :
+    CharacterModule.{uR, uN, uD} R N D →ₗ[R] CharacterModule.{uR, uM, uD} R M D where
```
Comment (alreadydone) [inline Mathlib/Algebra/Module/CharacterModule.lean:75]: This one can be defined using `flip` and `llcomp` just like [Module.Dual.transpose](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Dual.html#Module.Dual.transpose), at least in the commutative case. The name could be characterDual in analogy to [LinearMap.dualMap](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Dual.html#LinearMap.dualMap).

File: Mathlib/Algebra/Module/CharacterModule.lean (hunk 1 above)
Comment (jjaassoonn) [reply Mathlib/Algebra/Module/CharacterModule.lean]: This is done, I will see if flatness still works using `R`-linear map later in another branch

File: Mathlib/Algebra/Module/CharacterModule.lean [hunk 6]
```diff
@@ -0,0 +1,123 @@
...
+
+/--
+Equivalent modules have equivalent character modules
+-/
+@[simps!]
+def cong (e : M ≃ₗ[R] N) :
+    CharacterModule R M D ≃ₗ[R] CharacterModule R N D := by
+  refine LinearEquiv.ofLinear
+    (e.symm.toLinearMap.characterify D) (e.toLinearMap.characterify D) ?_ ?_ <;>
+  refine LinearMap.ext <| fun _ ↦ LinearMap.ext fun _ ↦ ?_ <;> aesop
```
Comment (alreadydone) [inline Mathlib/Algebra/Module/CharacterModule.lean:121]: In fact this could also be constructed using arrowCongr so it should be named LinearEquiv.congrLeft in analogy to [LinearEquiv.congrRight](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Basic.html#LinearEquiv.congrRight).

File: Mathlib/Algebra/Module/CharacterModule.lean [hunk 7]
```diff
@@ -0,0 +1,123 @@
...
+
+instance : Module R (CharacterModule R M D) :=
+  LinearMap.module
+
+instance : LinearMapClass (CharacterModule R M D) R M D :=
+  inferInstanceAs <| LinearMapClass (M →ₗ[R] D) R M D
+
+@[simp] lemma CharacterModule.smul_apply (f : CharacterModule R M D) (r : R) (m : M) :
+    (r • f) m = f (r • m) := by
+  rw [LinearMap.smul_apply, f.map_smul]
```
[the remark this answers is not in the document]
Comment (jjaassoonn) [reply Mathlib/Algebra/Module/CharacterModule.lean:63]: I see, I will split this file and leave `CharacterModule` only to mean `A →ₗ[ℤ] AddCircle (1 : ℚ)`; and move the rest to other more fitting places. Thanks

[the remark this answers is not in the document]
Comment (jjaassoonn) [reply Mathlib/Algebra/Module/CharacterModule.lean]: This is done now.

File: Mathlib/Algebra/Module/CharacterModule.lean [hunk 8]
```diff
@@ -0,0 +1,123 @@
...
+@[simps]
+def LinearMap.characterify
+    (L : M →ₗ[R] N)  :
+    CharacterModule R N D →ₗ[R] CharacterModule R M D where
+  toFun f := f ∘ₗ L
+  map_add' _ _ := LinearMap.ext fun m ↦ by aesop
+  map_smul' r c := LinearMap.ext fun m ↦ by
+    simp only [coe_comp, coe_restrictScalars, Function.comp_apply, RingHom.id_apply]
+    rw [CharacterModule.smul_apply, CharacterModule.smul_apply, LinearMap.comp_apply, c.map_smul,
+      L.map_smul, c.map_smul]
```
[the remark this answers is not in the document]
Comment (jjaassoonn) [reply Mathlib/Algebra/Module/CharacterModule.lean]: Thanks! I have remove the character module file and moved everything else to more fitting files.

File: Mathlib/Algebra/Module/CharacterModule.lean (hunk 6 above)
Comment (jjaassoonn) [reply Mathlib/Algebra/Module/CharacterModule.lean]: done

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
